US06169091A
4-(4-Phenoxyanilino)-5-(2-thienyl)thieno[2,3-d]pyrimidine hydrochloride
4-Chloro-5-(2-thienyl)thieno[2,3-d]pyrimidine (commercially available from Maybridge Chemical Co. Ltd.) (0.126 g, 0.50 mmol) and 4-phenoxyaniline (0.116 g, 0.63 mmol) were reacted in 2-propanol (3 ml) for 6.5 hours according to Procedure A. The product was obtained as an off-white powder (0.150 g, 71%), m.p. 171-172° C. (effervescence); (Found: C, 62.60; H, 3.60, N, 9.85. C22H15N3OS2.0.67HCl requires: C, 62.06; H, 3.71; N, 9.87%); δH [2H6]-DMSO 8.58 (1H,s), 7.79-7.85 (2H,m), 7.29-7.56 (7H,m), 6.93-7.13 (5H,m); m/z 401 (M+).

reactant | 4-Chloro-5-(2-thienyl)thieno[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)SC=C2C=2SC=CC2 | C10H5ClN2S2
reactant | 4-phenoxyaniline | 0.63 mmol, 0.116 g | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
solvent | 2-propanol | 3 ml | CC(C)O | C3H8O
product | 4-(4-Phenoxyanilino)-5-(2-thienyl)thieno[2,3-d]pyrimidine hydrochloride | 0.150 g, 71% | Cl.O(C1=CC=CC=C1)C1=CC=C(NC=2C3=C(N=CN2)SC=C3C=3SC=CC3)C=C1 | InChI=1S/C22H15N3OS2.ClH/c1-2-5-16(6-3-1)26-17-10-8-15(9-11-17)25-21-20-18(19-7-4-12-27-19)13-28-22(20)24-14-23-21;/h1-14H,(H,23,24,25);1H
